US04797496
A solution of 0.65 g 2-methylpropyl 2-phenyl-4-oxoimidazolidine-β-hydroxybutanoate in 1.5 ml dimethyl sulfoxide and 0.5 ml water is heated at reflux for 16 h. After evaporating, the residue is chromatographed on silica, eluting with 7:3 ethyl acetate/methanol. Oxiracetam is obtained as a white powder, m.p. 167°-70° C.

reactant | 2-methylpropyl 2-phenyl-4-oxoimidazolidine β-hydroxybutanoate | 0.65 g | CC(CN1C(NC(C1)=O)C1=CC=CC=C1)C.OC(CC(=O)[O-])C
solvent | dimethyl sulfoxide | 1.5 ml | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
product | Oxiracetam | C1C(CN(C1=O)CC(=O)N)O | C6H10N2O3
